US04602014
A mixture of 2.6 g of ethyl 6,7-dihydro-4-hydroxy-5H-cyclopenta[b]pyridine-3-carboxylate [J. Heterocyclic Chem. 12, 1245 (1975)] and 100 mL of phosphorous oxychloride is refluxed for 2.5 hours. The excess phosphorous oxychloride is then removed by evaporating under reduced pressure. The residue is dissolved in chloroform and washed with ice-cold saturated sodium bicarbonate aqueous solution. The chloroform layer is separated, dried over magnesium sulfate, passed through a short silica gel column and evaporated to dryness to yield ethyl 4-chloro-6,7-dihydro-5H-cyclopenta[b]pyridine-3-carboxylate.

reactant | ethyl 6,7-dihydro-4-hydroxy-5H-cyclopenta[b]pyridine-3-carboxylate | 2.6 g | OC1=C2C(=NC=C1C(=O)OCC)CCC2 | C11H13NO3
reactant | phosphorous oxychloride | 100 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
product | ethyl 4-chloro-6,7-dihydro-5H-cyclopenta[b]pyridine-3-carboxylate | ClC1=C2C(=NC=C1C(=O)OCC)CCC2 | C11H12ClNO2
